************************************************************************
* auCdl Netlist:
* 
* Library Name:  OTFT_stdlib_cells
* Top Cell Name: INVD1
* View Name:     schematic
* Netlisted on:  Dec 13 10:46:14 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: OTFT_stdlib_cells
* Cell Name:    INVD1
* View Name:    schematic
************************************************************************

.SUBCKT INVD1 IN OUT VDD VSS
*.PININFO IN:I VDD:I VSS:I OUT:O
MI6 OUT IN VDD ptft W=400u L=10u
MI4 net10 IN VDD ptft W=200u L=10u
MI7 VSS net10 OUT ptft W=400u L=10u
MI5 VSS VSS net10 ptft W=100u L=40u
.ENDS

